US06881733B1
5-methoxymethyl-7-bromobenzofuran
A solution of 0.372 gm (0.40 mMol) 5-hydroxymethyl-7-bromobenzofuran in tetrahydrofuran was added to a mixture of 1.80 mMol sodium hydride (60% suspension in mineral oil) in 2 mL tetrahydrofuran. After stirring at room temperature for 1 hour, 204 μL iodomethane were added and stirring was continued for 2.5 hours. The reaction mixture was quenched by the addition of water and the resulting mixture was extracted well with ethyl acetate. The organic phase was concentrated under reduced pressure to provide a nearly quantitative yield of the title compound.

reactant | 5-hydroxymethyl-7-bromobenzofuran | 0.40 mMol, 0.372 gm | OCC=1C=C(C2=C(C=CO2)C1)Br | C9H7BrO2
reactant | sodium hydride | 1.80 mMol | [H-].[Na+]
reactant | iodomethane | 204 μL | IC | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 5-methoxymethyl-7-bromobenzofuran | quantitative yield | COCC=1C=C(C2=C(C=CO2)C1)Br | C10H9BrO2
